US04001226
Benzhydryl 7-(2-thienylacetamido)-3-amino-3-cephem-4-carboxylate
A solution of 0.178 g. (0.26 mmole) of benzhydryl 7-(2-thienylacetamido)-3-(4-nitrobenzyloxycarbonylamino)-3-cephem-4-carboxylate in 3 ml. of methylene chloride was combined with 70 ml. of methanol and 0.178 g. of 5 percent palladium on carbon (prereduced with hydrogen at 50 psi for 15 minutes) in 30 ml. of 3A ethanol. The alcoholic mixture was reduced with hydrogen at 50 psi for 3.5 hours. The catalyst was filtered and washed with hot 3A ethanol. The filtrate and washings were combined and evaporated in vacuo to dryness. A methylene chloride solution of the residue thereby obtained was filtered through a celite filter pad. Evaporation in vacuo to dryness provided 128 mg. (97.8 percent) of the title product as a yellow froth: ir (CHCl3) 1720 cm-1 (β-lactam); nmr (CDCl3) δ3.7 (ABq, C2--H), 3.92 (s, 1, side chain CH2), 5.01 (d, 1, J=4.0 Hz, C6--H), 5.32 (q, 1, J = 4.0 Hz, and 8.0 Hz, C7 --H), and 6.3 (NH).

reactant | benzhydryl 7-(2-thienylacetamido)-3-(4-nitrobenzyloxycarbonylamino)-3-cephem-4-carboxylate | 0.26 mmole | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)NC(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C34H28N4O8S2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | methanol | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | Benzhydryl 7-(2-thienylacetamido)-3-amino-3-cephem-4-carboxylate | 97.8 percent | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)N)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C26H23N3O4S2
